US07091228B2
2-Chloro-6-(trifluoromethyl)-1,3-benzothiazole
In a three-necked flask fitted with a condenser, a suspension of copper II chloride (370 mg, 2.75 mmol) in acetonitrile (5 mL) was treated with tert-butyl nitrite (0.41 mL, 3.44 mmol) and stirred at rt for 10 minutes. A solution of 2-amino-6-trifluoromethylbenzthiazole (500 mg, 2.29 mmol) in acetonitrile (1 mL) was then added dropwise. The mixture was heated at 65° C. for 30 minutes, then cooled and diluted with an excess of 1 N aqueous hydrochloric acid solution. The mixture was extracted with ethyl acetate. The organic phase was separated, dried (MgSO4), and concentrated under reduced pressure. An orange semi-solid (501 mg, 92%) was obtained and used without further purification. 1H NMR (300 MHz, CDCl3) δ 8.10–8.05 (m, 2 H), 7.74 (d, 1 H); LC-MS m/z 238.2 (MH+), ret. time 3.76 min TLC Rf=0.50 (9:1 hexanes/ethyl acetate).

reactant | tert-butyl nitrite | 3.44 mmol, 0.41 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-amino-6-trifluoromethylbenzthiazole | 2.29 mmol, 500 mg | NC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H5F3N2S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | copper | 2.75 mmol, 370 mg | [Cu] | Cu
product | 2-Chloro-6-(trifluoromethyl)-1,3-benzothiazole | 501 mg, 92% | ClC=1SC2=C(N1)C=CC(=C2)C(F)(F)F | C8H3ClF3NS
